US05645610
Step 4: 4-amino-2-(2'-hydroxyethyl) amino-5-chlorotoluene hydrochloride
670 mg (2.9 mmol) of 2-(2'-hydroxyethyl)amino-5-chloro-4-nitrotoluene and 625 g of tin in 10 ml semiconcentrated hydrochloric acid were heated under reflux for one hour. After cooling, this mixture was diluted with 10 ml of water and 40 ml of 10 percent aqueous sodium hydroxide solution were added. The tin salt precipitate was filtered off and the filtrate was extracted 3 times with 30 ml of methylene chloride each time. After washing with water the filtrate was dried over sodium sulfate and the solvent was completely distilled away. The oily residue was received in 20 ml of methanol and reacted with an equimolar amount of hydrochloric acid.

reactant | 2-(2'-hydroxyethyl)amino-5-chloro-4-nitrotoluene | 2.9 mmol, 670 mg | OCCNC1=C(C=C(C(=C1)[N+](=O)[O-])Cl)C | C9H11ClN2O3
reactant | tin | 625 g | [Sn] | Sn
solvent | hydrochloric acid | 10 ml | Cl | ClH
solvent | water | 10 ml | O | H2O
solvent | sodium hydroxide | 40 ml | [OH-].[Na+]
product | 4-amino-2-(2'-hydroxyethyl) amino-5-chlorotoluene hydrochloride | Cl.NC1=CC(=C(C=C1Cl)C)NCCO | InChI=1S/C9H13ClN2O.ClH/c1-6-4-7(10)8(11)5-9(6)12-2-3-13;/h4-5,12-13H,2-3,11H2,1H3;1H
